* C:\users\jorge\Documents\FCEFyN\SRA\Laboratorio1\Laboratorios_Angeloff_Moyano\L1_C1.asc
V1 N001 0 SINE(0 1 10)
R1 N001 0 10
.tran 0 1 0 0.1
.backanno
.end
